US07179835B2
tert-Butyl 2-(isopropylamino)ethylcarbamate
N-Isopropylethylene diamine (1.25 ml) was dissolved in dry DCM (50 ml), cooled to 0° C. and treated with di-tert-butyl dicarbonate (1.09 g) and triethylamine (1.39 ml). The resultant mixture was stirred at room temperature for 90 min and then evaporated under reduced pressure. The residue was purified using SPE (silica, eluting with DCM:MeOH:aqueous NH3, 100:8:1) to give the title compound (0.85 g) as a pale yellow oil.

reactant | N-Isopropylethylene diamine | 1.25 ml | C(C)(C)NCCN | C5H14N2
reactant | di-tert-butyl dicarbonate | 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(isopropylamino)ethylcarbamate | 0.85 g | C(C)(C)NCCNC(OC(C)(C)C)=O | C10H22N2O2
